US08859573B2
2-(4-((6-(trifluoromethyl)pyridin-2-yl)oxy)phenyl)ethanol
The title compound was prepared by a procedure similar to that described for D1 starting from 4-(2-hydroxyethyl)phenol and 2-chloro-6-(trifluoromethyl)pyridine, LC-MS (ESI): m/z 284 [M+H]+; 3.00 min (ret time).

reactant | 4-(2-hydroxyethyl)phenol | OCCC1=CC=C(C=C1)O | C8H10O2
reactant | 2-chloro-6-(trifluoromethyl)pyridine | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
product | 2-(4-((6-(trifluoromethyl)pyridin-2-yl)oxy)phenyl)ethanol | FC(C1=CC=CC(=N1)OC1=CC=C(C=C1)CCO)(F)F | C14H12F3NO2
